US05302593
a) Preparation of 7-bromoheptylphthalimide
Potassium phthalimide (5.4 mmoles) was added to a solution of 1,7-dibromoheptane (4.18 g; 16.2 mmoles) in dimethylformamide (8 ml) and heated to 80° C. approx. under stirring. Reaction times and process as per Example 4.

reactant | Potassium phthalimide | 5.4 mmoles | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | 1,7-dibromoheptane | 16.2 mmoles, 4.18 g | BrCCCCCCCBr | C7H14Br2
solvent | dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
product | 7-bromoheptylphthalimide | BrCCCCCCCC1=C2C(C(=O)NC2=O)=CC=C1 | C15H18BrNO2
